US09120749B2
Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[trans-4-(pyrrolidin-1-ylmethyl)cyclohexylamino]quinolin-3-yl}methanone hydrochloride
To a suspension of cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[trans-4-(pyrrolidin-1-ylmethyl)cyclohexylamino]quinolin-3-yl}methanone (3.69 g, 6.85 mmol) in methanol (70 mL) was added 1M HCl in water (17 mL, 17 mmol) at 0° C. The resultant solution was concentrated to an approximate volume of 30 mL. The precipitate was washed with acetonitrile to obtain the desired product as the hydrochloride salt (3.58 g) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 9.34 (s, 1H), 8.49 (s, 1H), 8.27 (dd, J=8.8, 1.8 Hz, 1H), 7.99 (d, J=8.8 Hz, 1H), 7.74 (s, 2H), 4.51-4.47 (m, 1H), 3.73-3.69 (m, 2H), 3.18-3.09 (m, 4H), 2.84 (br s, 1H), 2.44-2.40 (br s, 2H), 2.19-1.97 (m, 7H), 1.84-1.71 (m, 2H), 1.36-1.18 (m, 6H); ESI MS m/z 538 [C30H33Cl2N3O2+H]+; HPLC>99% (AUC), tR=10.65 min.

reactant | cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[trans-4-(pyrrolidin-1-ylmethyl)cyclohexylamino]quinolin-3-yl}methanone | 6.85 mmol, 3.69 g | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)CN1CCCC1)C1=CC(=C(C(=C1)Cl)O)Cl | C30H33Cl2N3O2
reactant | HCl | 1M | Cl | ClH
reactant | water | 17 mmol, 17 mL | O | H2O
solvent | methanol | 70 mL | CO | CH4O
product | Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[trans-4-(pyrrolidin-1-ylmethyl)cyclohexylamino]quinolin-3-yl}methanone hydrochloride | Cl.C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)CN1CCCC1)C1=CC(=C(C(=C1)Cl)O)Cl | InChI=1S/C30H33Cl2N3O2.ClH/c31-25-14-21(15-26(32)30(25)37)20-7-10-27-23(13-20)28(24(16-33-27)29(36)19-5-6-19)34-22-8-3-18(4-9-22)17-35-11-1-2-12-35;/h7,10,13-16,18-19,22,37H,1-6,8-9,11-12,17H2,(H,33,34);1H/t18-,22-;
